US07601716B2
(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(6-fluorobenzo[d]isoxazol-3-yl)-piperidin-1-yl]methanone
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-(6-fluorobenzo[d]isoxazol-3-yl)piperidine as in General Procedure 10 to give the title compound. LCMS: m/z=649.96 (M+H+); retention time=1.00 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-(6-fluorobenzo[d]isoxazol-3-yl)piperidine | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
product | (4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(6-fluorobenzo[d]isoxazol-3-yl)-piperidin-1-yl]methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCC(CC3)C3=NOC2=C3C=CC(=C2)F)C1)C(F)(F)F | C34H28ClF4N5O2
